US08357711B2
3-Cyclopropyl-4-fluoro-benzoic acid
To a solution of compound 3 ethyl 4-fluoro-3-vinylbenzoate (Preparation 54, 87 g, 0.42 mol, 1 eq) in THF (470 mL) and water (400 mL) was added lithium hydroxide monohydrate (35.1 g, 0.84 mol, 2.0 eq). The resulting mixture was stirred at 40° C. overnight. THF was removed in vacuum, then 6N hydrogen chloride solution was added dropwise until pH=2. The mixture was extracted with ethyl acetate (3×600 mL). The organic phase was dried over sodium sulfate and concentrated in vacuo to give title compound as a white solid (60.8 g, 0.34 mol, 81%).

reactant | ethyl 4-fluoro-3-vinylbenzoate | 0.42 mol, 87 g, 1 eq | FC1=C(C=C(C(=O)OCC)C=C1)C=C | C11H11FO2
reactant | lithium hydroxide monohydrate | 0.84 mol, 35.1 g, 2.0 eq | O.[OH-].[Li+]
reactant | THF | 470 mL | C1CCOC1 | C4H8O
solvent | water | 400 mL | O | H2O
product | 3-Cyclopropyl-4-fluoro-benzoic acid | 0.34 mol, 60.8 g, 81% | C1(CC1)C=1C=C(C(=O)O)C=CC1F | C10H9FO2
